### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/AffineSpace/AffineSubspace): using `AffineSubspace.direction` to reinterpret `AffineSubspace` as `Submodule`

### PR DESCRIPTION
**Pull request by martinwintermath**
* add `AffineSubspace.vsub_self_of_zero_mem` that states `s -ᵥ s = s ` if `0 ∈ s`
* add `AffineSubspace.direction_eq_self_iff_zero_mem` that states that `0 ∈ s` iff the directions coerce back to the affine subspace. 
* add corresponding `CanLift` instance.
* modify doc-string of `AffineSubspace.direction` to state that this can be used for reinterpretation of an affine subspace as a submodule.
* add `Coe` instance based on `Submodule.toAffineSubspace` and adds corresponding @[coe] attribute. 

The PR also performs a slight cleanup of the file: statements about `SetLike` or `Submodule.toAffineSubspace` have been moved closer to their respective definitions. Because the PR was temporarily broken, I also added

* the lemma `carrier_eq_coe (s : AffineSubspace k P) : s.carrier = s`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 1]
```diff
@@ -182,6 +171,50 @@ theorem mem_coe (p : P) (s : AffineSubspace k P) : p ∈ (s : Set P) ↔ p ∈ s
...
+    x ∈ (p : AffineSubspace k V) ↔ x ∈ p := Iff.rfl
+
+end Submodule
+
+namespace AffineSubspace
+
+variable {k : Type*} {V : Type*} {P : Type*} [Ring k] [AddCommGroup V] [Module k V]
+  [AffineSpace V P]
+
+def toSubmodule_of_zero_mem {s : AffineSubspace k V} (hs : 0 ∈ s) : Submodule k V where
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]:
```suggestion
def toSubmoduleOfZeroMem {s : AffineSubspace k V} (hs : 0 ∈ s) : Submodule k V where
```
or simply 
```suggestion
def toSubmodule {s : AffineSubspace k V} (hs : 0 ∈ s) : Submodule k V where
```
as I don't expect an alternative constructor

**Comment by wwylele** [comment]
One thing I just realized: isn't this just a specialization of `AffineSubspace.direction`? When 0 is a member, you can prove that `AffineSubspace.direction` and `AffineSubspace.toSubmodule` are equal. So I don't think we need this. We can add a doc to note that one can use `AffineSubspace.direction` to convert to submodule

Edit: and we can add a lemma that `(AffineSubspace.direction s).toAffineSubspace = s` when 0 is a member of s

**Review by wwylele — APPROVED** [review]
Don't forget to update PR title and description

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 2]
```diff
@@ -301,16 +337,15 @@ theorem mem_direction_iff_eq_vsub_left {s : AffineSubspace k P} {p : P} (hp : p
...
+lemma direction_eq_self_of_zero_mem {s : AffineSubspace k V} (hs : 0 ∈ s) :
+    s.direction = s := by
+  ext x
+  change x ∈ (s.direction : Set V) ↔ _
+  simp [s.coe_direction_eq_vsub_set ⟨0, hs⟩, vsub_self_of_zero_mem hs]
 
-protected theorem ext_iff (s₁ s₂ : AffineSubspace k P) : s₁ = s₂ ↔ (s₁ : Set P) = s₂ :=
-  SetLike.ext'_iff
+instance : CanLift (AffineSubspace k V) (Submodule k V) (·) (0 ∈ ·) := ⟨
+  fun _ hs => ⟨_, direction_eq_self_of_zero_mem hs⟩⟩
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Silly nit:
```suggestion
instance : CanLift (AffineSubspace k V) (Submodule k V) (·) (0 ∈ ·) :=
  ⟨fun _ hs => ⟨_, direction_eq_self_of_zero_mem hs⟩⟩
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 3]
```diff
@@ -301,16 +337,15 @@ theorem mem_direction_iff_eq_vsub_left {s : AffineSubspace k P} {p : P} (hp : p
...
-  SetLike.coe_injective
-
-@[ext (iff := false)]
-theorem ext {p q : AffineSubspace k P} (h : ∀ x, x ∈ p ↔ x ∈ q) : p = q :=
-  SetLike.ext h
+/-- If an affine subspace contains zero, then it equals its directions. -/
+lemma direction_eq_self_of_zero_mem {s : AffineSubspace k V} (hs : 0 ∈ s) :
+    s.direction = s := by
+  ext x
+  change x ∈ (s.direction : Set V) ↔ _
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Usually `change` suggests missing API. This one looks quite mild but can it be avoided? Is there missing API?

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 4]
```diff
@@ -301,16 +337,15 @@ theorem mem_direction_iff_eq_vsub_left {s : AffineSubspace k P} {p : P} (hp : p
...
-/-- Two affine subspaces are equal if they have the same points. -/
-theorem coe_injective : Function.Injective ((↑) : AffineSubspace k P → Set P) :=
-  SetLike.coe_injective
-
-@[ext (iff := false)]
-theorem ext {p q : AffineSubspace k P} (h : ∀ x, x ∈ p ↔ x ∈ q) : p = q :=
-  SetLike.ext h
+/-- If an affine subspace contains zero, then it equals its directions. -/
+lemma direction_eq_self_of_zero_mem {s : AffineSubspace k V} (hs : 0 ∈ s) :
+    s.direction = s := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Can we strengthen this to:
```suggestion
@[simp] lemma direction_eq_self_iff {s : AffineSubspace k V} :
    s.direction = s ↔ 0 ∈ s := by
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean (hunk 3 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Yes, it seems to me what is missing here is an implementation of vsub on affine subspaces. We need to use `coe_direction_eq_vsub_set` which proves `(s.direction : Set V) = (s : Set P) -ᵥ s`. Instead I think we want to directly use `s.direction.toAffineSubspace = s -ᵥ s`, but this vsub does not exist. 

I don't think this PR is the right place to introduce the vsub, but I plan to do this in the future. Should I make a TODO comment?

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean (hunk 4 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Replaced it by iff version. Are we sure this should be a @[simp] though? I tend to say no.

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 5]
```diff
@@ -176,17 +165,66 @@ instance : SetLike (AffineSubspace k P) P where
...
+  [AffineSpace V P]
+
+lemma vsub_self_of_zero_mem {s : AffineSubspace k V} (hs : 0 ∈ s) :
+    (s : Set V) -ᵥ s = s := by
+  ext x
+  constructor
+  · rintro ⟨a, ha, b, hb, rfl⟩
+    simpa using s.smul_vsub_vadd_mem 1 ha hb hs
+  · exact fun h => ⟨x, h, 0, hs, by simp⟩
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:218]: How about we also add:
```suggestion

@[simp] lemma vsub_self_eq_iff {s : AffineSubspace k V} [Nonempty s] :
    (s : Set V) -ᵥ s = s ↔ 0 ∈ s := by
  refine ⟨fun h ↦ ?_, vsub_self_of_zero_mem⟩
  obtain x : s := Classical.choice inferInstance
  suffices (x : V) - x ∈ (s : Set _) by aesop
  rw [← h, mem_vsub]
  aesop

```

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 6]
```diff
@@ -176,17 +165,66 @@ instance : SetLike (AffineSubspace k P) P where
...
 /-- The direction of an affine subspace is the submodule spanned by
 the pairwise differences of points.  (Except in the case of an empty
 affine subspace, where the direction is the zero submodule, every
 vector in the direction is the difference of two points in the affine
-subspace.) -/
+subspace.)
+
+This can also be used to reinterpret an affine subspace that contains
+zero as a submodule, see `direction_eq_self_of_zero_mem`.
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]:
```suggestion
zero as a submodule, see `direction_eq_self_iff_zero_mem`.
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 7]
```diff
@@ -301,16 +339,17 @@ theorem mem_direction_iff_eq_vsub_left {s : AffineSubspace k P} {p : P} (hp : p
...
-@[ext (iff := false)]
-theorem ext {p q : AffineSubspace k P} (h : ∀ x, x ∈ p ↔ x ∈ q) : p = q :=
-  SetLike.ext h
+/-- An affine subspace contains zero if and only if it equals its directions. -/
+@[simp] lemma direction_eq_self_iff_zero_mem {s : AffineSubspace k V} :
+    s.direction = s ↔ 0 ∈ s where
+  mp h := by rw [← h]; simp
+  mpr h := by
+    ext x
+    change x ∈ (s.direction : Set V) ↔ _
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]:
```suggestion
    rw [Submodule.mem_toAffineSubspace, ← SetLike.mem_coe]
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: I've added a suggestion to use existing API instead.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean (hunk 5 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:218]: Are we sure we want these as simp lemmas? Should we then not also have  `s -ᵥ (s : Set V) = s ↔ 0 ∈ s`? Same in my earlier comment?

Comment (ocfnash) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:218]: I am confident these should be `simp` (unless the `simpNF` linter disagrees). The heuristic I'm using is simply that `(s : Set V) -ᵥ s = s` is a much more complicated way of saying `0 ∈ s`.

However I'm not quite sure I understand your remark about also having `s -ᵥ (s : Set V) = s ↔ 0 ∈ s` but I'll note that there is only one lemma here: in the expression `(s : Set V) -ᵥ s` both `s` terms are coerced to be sets.

Comment (martinwintermath) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:218]: Sorry, I meant "should we also have `s = (s : Set V) -ᵥ s ↔ 0 ∈ s`?".

Comment (ocfnash) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:218]: Oh I see, good question.

The fact that the LHS could take either the form `(s : Set V) -ᵥ s = s` or `s = (s : Set V) -ᵥ s` would not remove the desire to have a `simp` lemma. Indeed, naive solution would just be to have both `simp` lemmas.

However we do have a simproc to save us stuffing the library with near-duplicate lemmas while also providing convenient automation. In this case you can see it in action as follows:
```lean
-- This succeeds, because the `eqComm` simproc picks up your `vsub_self_eq_iff_zero_mem` lemma:
example {s : AffineSubspace k V} [Nonempty s] : s = (s : Set V) -ᵥ s ↔ 0 ∈ s := by simp [eqComm]
```
We also have an `iffComm` version (and possibly others). The only catch is that they're not enabled globally for performance reasons (which is why you need to write `simp [eqComm]` rather than just `simp` above), but at least it means we don't author all these duplicate lemmas.

Comment (martinwintermath) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:218]: Interesting! I did not know about that.
